US06211245B1
2-Bromomethyl-5-fluorobenzonitrile
A mixture of 5-fluoro-2-methylbenzonitrile (10.0 g, 74.0 mmol), N-bromosuccinimide (NMS, 13.2 g, 74.0 mmol), benzoyl peroxide (0.2 g, 0.82 mmol), and carbon tetrachloride (100 mL) was refluxed for 18 h. The reaction mixture was then cooled to room temperature and filtered through fritted glass. The solid in the funnel was washed with carbon tetrachloride (3×50 mL) and evaporated to dryness under vacuum to provide 16.1 g, 102% yield of product.

reactant | 5-fluoro-2-methylbenzonitrile | 74.0 mmol, 10.0 g | FC=1C=CC(=C(C#N)C1)C | C8H6FN
reactant | N-bromosuccinimide | 74.0 mmol, 13.2 g | BrN1C(CCC1=O)=O | C4H4BrNO2
catalyst | benzoyl peroxide | 0.82 mmol, 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 100 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromomethyl-5-fluorobenzonitrile | 16.1 g, 102% yield | BrCC1=C(C#N)C=C(C=C1)F | C8H5BrFN
